US05830902
2-Hydroxy-9H-xanthen-9-one
Boron tribromide (1.0M dichloromethane solution, 50 ml, 50 mmol) was added to a mixture of 2-methoxy-9H-xanthen-9-one (5.66 g, 25.0 mmol) and dichloromethane (50 ml), and the mixture was stirred for 3 hours. The reaction mixture was poured into ice water and the reaction product was extracted with chloroform. The extract was washed with water and saturated sodium chloride aqueous solution in that order, dried over anhydrous magnesium sulfate, and then concentrated under a reduced pressure to give the title compound (5.00 g, 23.6 mmol, 94%) as yellow crystals.

reactant | Boron tribromide | 50 mmol, 1.0M, 50 ml | B(Br)(Br)Br | BBr3
reactant | 2-methoxy-9H-xanthen-9-one | 25.0 mmol, 5.66 g | COC1=CC=2C(C3=CC=CC=C3OC2C=C1)=O | C14H10O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-Hydroxy-9H-xanthen-9-one | 23.6 mmol, 5.00 g, 94% | OC1=CC=2C(C3=CC=CC=C3OC2C=C1)=O | C13H8O3
